US08084611B2
4-(6-Bromo-pyridin-3-yl)-morpholine
Tris(dibenzylideneacetone)dipalladium (840 mg) and 4,5-bis(diphenyl-phosphino)-9,9-dimethylxanthene (1.6 g) and sodium tert-butoxide (6.6 g) were added to a solution of morpholine (2 ml) and 2-bromo-5-iodo-pyridine (7.8 g) in toluene (230 ml), and the mixture was stirred under nitrogen atmosphere at room temperature overnight. Water and ethyl acetate were added to the mixture and the organic layer was separated, washed with a saturated brine, dried over magnesium sulfate and concentrated in vacuo. The resulting residue was purified by column chromatography (silica gel; hexane:ethyl acetate=9:1→7:3) to give the titled compound (5.07 g). MS (m/z): 243/245 [M+H]+.

reactant | 4,5-bis(diphenyl-phosphino)-9,9-dimethylxanthene | 1.6 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | sodium tert-butoxide | 6.6 g | CC(C)([O-])C.[Na+]
reactant | morpholine | 2 ml | N1CCOCC1 | C4H9NO
reactant | 2-bromo-5-iodo-pyridine | 7.8 g | BrC1=NC=C(C=C1)I | C5H3BrIN
solvent | toluene | 230 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Tris(dibenzylideneacetone)dipalladium | 840 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-(6-Bromo-pyridin-3-yl)-morpholine | 5.07 g | BrC1=CC=C(C=N1)N1CCOCC1 | C9H11BrN2O
